US06048880
3-Acetyl-5-chloro-2-phenoxythiophene
A mixture of phenol (1.22 g, 13 mM) and NaH (60% oil dispersion, 0.52 g, 13 mM) in DMF (25 mL) was stirred for 40 minutes at room temperature. 3-Acetyl-2,5-dichlorothiophene (1.95 g, 10 mM) and copper (I) iodide (50 mg) was added to the above mixture, and the resulting mixture was heated at 130° C. for 1.5 hours. After cooling, the mixture was poured into water. The whole was extracted with ethyl acetate-hexane (1:1, 200 mL×1, 100 mL×1), and the combined organic layers washed with water, brine, dried over MgSO4, and concentrated in vacuo. Chromatographic purification eluting with ethyl acetate-hexane (1:20) provided the subtitle compound (1.69 g. 67% yield) as a brown oil.

reactant | phenol | 13 mM, 1.22 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaH | 13 mM, 0.52 g | [H-].[Na+]
reactant | 3-Acetyl-2,5-dichlorothiophene | 10 mM, 1.95 g | C(C)(=O)C1=C(SC(=C1)Cl)Cl | C6H4Cl2OS
reactant | water | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 50 mg | [Cu]I
product | 3-Acetyl-5-chloro-2-phenoxythiophene | 1.69 g, 67% yield | C(C)(=O)C1=C(SC(=C1)Cl)OC1=CC=CC=C1 | C12H9ClO2S
